US07335658B2
6-[4-(5-FLUORO-2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (3-METHYLBUTYL)AMIDE
Following the procedure of Example 15, making variations only as required to use 6-chloropyridazine-3-carboxylic acid (3-methylbutyl)amide in place of 6-chloropyridazine-3-carboxylic acid (2-cyclopropyl-2-hydroxyethyl)amide to react with piperazin-1-yl-(5-fluoro-2-trifluoromethylphenyl)methanone, the title compound was obtained as a white powder (28.3% yield). 1H NMR (400 MHz, CDCl3) δ 8.05, 7.86, 7.78-7.75, 7.28-7.22, 7.12-7.08, 7.02, 4.08-4.01, 3.91-3.86, 3.82-3.68, 3.55-3.46, 3.38, 1.73-1.65, 1.56-1.48, 0.94.

reactant | 6-chloropyridazine-3-carboxylic acid (3-methylbutyl)amide | CC(CCNC(=O)C=1N=NC(=CC1)Cl)C | C10H14ClN3O
reactant | piperazin-1-yl-(5-fluoro-2-trifluoromethylphenyl)methanone | N1(CCNCC1)C(=O)C1=C(C=CC(=C1)F)C(F)(F)F | C12H12F4N2O
product | 6-[4-(5-FLUORO-2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (3-METHYLBUTYL)AMIDE | CC(CCNC(=O)C=1N=NC(=CC1)N1CCN(CC1)C(C1=C(C=CC(=C1)F)C(F)(F)F)=O)C | C22H25F4N5O2
